US08314091B2
To a stirred solution of N-tert-butyl-3-(piperazin-1-ylmethyl)benzamide (3.99 mmol, 1.1 g), 4-nitro-2-(trifluoromethyl)benzoic acid (3.83 mmol. 0.9 g) and triethylamine (28.7 mmol, 4 mL. 2.90 g) in dichloromethane (20 mL) was added 1-propanephosphonic acid cyclic anhydride (8.94 mmol, 5.3 mL, 5.69 g, 50% solution in ethyl acetate) dropwise. After 1 hour stirring, ethyl acetate was added and the organic mixture was washed with saturated sodium hydrogen carbonate (×2), water (×2) and finally brine. The organic mixture was dried with sodium sulfate and concentrated under vacuum to give the intermediate N-tert-butyl-3-((4-(4-nitro-2(trifluoromethyl)benzoyl)piperazin-1-yl)methyl)benzamide.

reactant | N-tert-butyl-3-(piperazin-1-ylmethyl)benzamide | 3.99 mmol, 1.1 g | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCNCC1)=O | C16H25N3O
reactant | 4-nitro-2-(trifluoromethyl)benzoic acid | 3.83 mmol, 0.9 g | [N+](=O)([O-])C1=CC(=C(C(=O)O)C=C1)C(F)(F)F | C8H4F3NO4
reactant | triethylamine | 28.7 mmol, 4 mL, 2.90 g | C(C)N(CC)CC | C6H15N
reactant | 1-propanephosphonic acid cyclic anhydride | 8.94 mmol, 5.3 mL, 5.69 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-tert-butyl-3-((4-(4-nitro-2(trifluoromethyl)benzoyl)piperazin-1-yl)methyl)benzamide | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCN(CC1)C(C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)=O)=O | C24H27F3N4O4
